US07737166B2
tert-Butyl {3-[4-cyano-2-dimethylcarbamoyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl]cyclopent-2-enyl}methylcarbamate (I-340)
7-Bromo-4-cyano-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-339) (275 mg, 0.72 mmol) and tert-butyl methyl-(3-tri-n-butylstannylcyclopent-2-enyl)carbamate (I-332) (453 mg, 0.93 mol) were dissolved in 1,4-dioxane (8 ml), and at room temperature, 2,6-di-tert-butyl-paracresol (3 mg, 0.01 mmol) and then bis(triphenylphosphine)palladium(II) dichloride (50 mg, 0.07 mmol) were added. The solution was stirred under nitrogen atmosphere at 100° C. for 24 hours, then cooled to room temperature. The insoluble matter was separated by filtration with washing with ethyl acetate. The filtrate was concentrated under reduced pressure. The solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=2:1, v/v) to obtain the entitled compound (316 mg, 88%) as a colorless gel.

reactant | 7-Bromo-4-cyano-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | BrC1=C(C(=C(C=2N=C(OC21)C(=O)N(C)C)C#N)C)C2=CC=CC=C2 | C18H14BrN3O2
reactant | tert-butyl methyl-(3-tri-n-butylstannylcyclopent-2-enyl)carbamate | 0.93 mol, 453 mg | CN(C(OC(C)(C)C)=O)C1C=C(CC1)[Sn](CCCC)(CCCC)CCCC
reactant | 2,6-di-tert-butyl-paracresol | 0.01 mmol, 3 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.07 mmol, 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl {3-[4-cyano-2-dimethylcarbamoyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl]cyclopent-2-enyl}methylcarbamate | 316 mg, 88% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(N(C)C)=O)C2=CC(CC2)CNC(OC(C)(C)C)=O)C2=CC=CC=C2)C | C29H32N4O4
